US05804559
a) Preparation of N-(tert-butoxycarbonyl)-N,N'-dimethyl-ethylenediamine
8.8 g of N,N'-dimethylethylenediamine were dissolved in 50 ml of ether and the solution was cooled to 0° C. 18.5 g of BOC-ON [2-(tert-butoxycarbonyloxyimino)-2-phenylacetonitrile] were slowly added dropwise and the mixture was stirred at RT for 16 hours. 6 g of sodium methylate were added and stirring was continued at RT for 18 hours. The substance which had precipitated out was filtered off with suction and washed with ether. The combined ether solution was concentrated in vacuo and the residue was distilled (boiling point 58°-60° C./0.5 mbar). 11.3 g were obtained as a colorless oil. MS(Cl): 189 (M+H)⊕, 133

reactant | N,N'-dimethylethylenediamine | 8.8 g | CNCCNC | C4H12N2
reactant | BOC-ON | 18.5 g | C(C)(C)(C)OC(=O)ON=C(C#N)C1=CC=CC=C1 | C13H14N2O3
reactant | sodium methylate | 6 g | C[O-].[Na+]
solvent | ether | 50 ml | CCOCC | C4H10O
product | N-(tert-butoxycarbonyl)-N,N'-dimethyl-ethylenediamine | C(C)(C)(C)OC(=O)N(CCNC)C | C9H20N2O2
